US07629363B2
Step 2: Preparation of 3-bromo-1-(3-fluorobenzyl)-4-hydroxy-6-methylpyridin-2(1H)-one
A mixture of 1-(3-fluorobenzyl)-4-hydroxy-6-methylpyridin-2(1H)-one (0.8 g, 0.0034 mol), NBS (0.64 g, 0.0036 mol) in dichloromethane (15.0 mL) was stirred at room temperature, under argon atmosphere. After 1.5 h, the reaction mixture was diluted with dichloromethane (15.0 mL), cooled and filtered the solids. The residue was washed with dichloromethane and dried in vacuo to give 0.93 g of the title compound as a white powder: 1H-NMR (CD3OD/400 MHz) δ 7.33 (m, 1H), 7.2-6.8 (m, 3H), 6.07 (s, 1H), 5.34 (s, 2H), 2.26 (s, 3H); ESHRMS m/z 312.0016 (M+H C13H12NO2BrF requires 312.0035).

reactant | 1-(3-fluorobenzyl)-4-hydroxy-6-methylpyridin-2(1H)-one | 0.0034 mol, 0.8 g | FC=1C=C(CN2C(C=C(C=C2C)O)=O)C=CC1 | C13H12FNO2
reactant | NBS | 0.0036 mol, 0.64 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | dichloromethane | 15.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15.0 mL | ClCCl | CH2Cl2
product | 3-bromo-1-(3-fluorobenzyl)-4-hydroxy-6-methylpyridin-2(1H)-one | 0.93 g | BrC=1C(N(C(=CC1O)C)CC1=CC(=CC=C1)F)=O | C13H11BrFNO2
